US20010020034A1
(3-Benzyloxy-4-cyano-isothiazol-5-yl)-carbamic acid phenyl ester
To a 0° C. suspension of the adduct, 2-cyano-3-mercapto-3-phenoxycarbonylaminoacrylimidic acid benzyl ester (282 g, 798 mmol) in acetonitrile (2 L) was added pyridine (129 mL, 1.60 mol). Next was added a solution of bromine (41.1 mL, 798 mmol) in acetonitrile (200 mL) over 15 minutes. The reaction was stirred at 0° C. for an additional 1 hour and then at ambient temperature for 2 hour. The mixture was placed in the refigerator and held at 5° C. overnight. The solid product was filtered and washed with 0° C. ether (1 L), dried in the same funnel by drawing air through the solid for 4 hours. The solid was added to water (1 L), stirred vigorously for 1 hour, filtered and dried in the same funnel by drawing air through the solid overnight to afford a white solid (320 g pure though still containing some water) that was used, as is, in the next step. 1H NMR (400 MHz, DMSO) δ 5.35 (s, 2H), 7.25-7.45 (m, 10H), 13.20 (broad s, 1H) ppm; MS (APCl, m/z): 350 [M-H]−.

reactant | 2-cyano-3-mercapto-3-phenoxycarbonylaminoacrylimidic acid benzyl ester | 798 mmol, 282 g | C(C1=CC=CC=C1)OC(C(=C(NC(=O)OC1=CC=CC=C1)S)C#N)=N | C18H15N3O3S
reactant | pyridine | 1.60 mol, 129 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 798 mmol, 41.1 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (3-Benzyloxy-4-cyano-isothiazol-5-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=CC=CC=C1)C#N)=O | C18H13N3O3S
